US07875639B2
4,5-Dimethyl-3-(tetrahydro-pyran-4-ylmethyl)-3H-thiazol-2-ylideneamine
A mixture of 4,5-dimethyl-thiazol-2-ylamine (0.36 g, 2.8 mmol) and 4-bromomethyltetrahydropyran (0.75 g, 4.2 mmol) was heated at 85° C. for 16 hours. The residue purified by preparative HPLC to afford 80 mg (13%) of the title compound

reactant | 4,5-dimethyl-thiazol-2-ylamine | 2.8 mmol, 0.36 g | CC=1N=C(SC1C)N | C5H8N2S
reactant | 4-bromomethyltetrahydropyran | 4.2 mmol, 0.75 g | BrCC1CCOCC1 | C6H11BrO
product | 4,5-Dimethyl-3-(tetrahydro-pyran-4-ylmethyl)-3H-thiazol-2-ylideneamine | 80 mg, 13% | CC=1N(C(SC1C)=N)CC1CCOCC1 | C11H18N2OS
